US05948817
2,3-Dihydro-5-phenyl-4-benzofurancarboxylic acid:
A magnetically stirred solution of 2,3-dihydro-4-iodo-5-phenylbenzofuran (1.60 g, 4.97 mmol) in anhydrous THF (40 mL) under nitrogen at -78° C. was treated with tert-butyllithium (1.73 M in pentane, 6.10 mL, 10.6 mmol), keeping the temperature less than -65° C., throughout. The solution was stirred for 0.5 h and treated with anhydrous carbon dioxide over 1 h at such a rate as to keep the temperature below -60° C. during addition. The solution was stirred for 2 h, allowed to warm to room temperature, and treated with Et2O, ice (100 g), and 1 N NaOH (200 mL). The layers were separated and the organic portion was further extracted with fresh 1 N NaOH (2×200 mL). The combined organic extracts were acidified with concentrated HCl, extracted with CH2Cl2 (3×150 mL), and the extracts washed with brine (200 mL), dried (MgSO4), filtered, and concentrated in vacuo to give 0.795 g (67%) of the title compound: 1H NMR (300 MHz, CDCl3)δ 3.45 (t, J=8.5 Hz, 2H), 4.65 (t, J=8.5 Hz, 2H), 6.93 (d, J=8 Hz, 1H), 7.14 (d, J=8 Hz, 1H), 7.29-7.42 (m, 5H), 11.2 (br s, 1H).

reactant | 2,3-dihydro-4-iodo-5-phenylbenzofuran | 4.97 mmol, 1.60 g | IC1=C(C=CC2=C1CCO2)C2=CC=CC=C2 | C14H11IO
reactant | tert-butyllithium | 10.6 mmol, 1.73 M, 6.10 mL | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | NaOH | 1 N, 200 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 2,3-Dihydro-5-phenyl-4-benzofurancarboxylic acid | 0.795 g, 67% | C1(=CC=CC=C1)C1=CC=C2C(CCO2)=C1C(=O)O | C15H12O3
